US06114532
4-[(5-benzenesulphonylamino-1-carboxymethyl-1H-benzimidazol-2-yl)-methyl]-benzamidine
200 mg (0.379 mmol) of 4-[(5-benzenesulphonylamino-1-ethoxycarbonylmethyl-1H-benzimidazol-2-yl)-methyl]-benzamidine-hydrochloride are dissolved in 10 ml ethanol and stirred at 40° C. for 90 minutes after the addition of 1 ml 2N sodium hydroxide solution. The solvent is distilled off, the residue diluted with 20 ml water and acidified with glacial acetic acid. The precipitated product is suction filtered and dried.

reactant | 4-[(5-benzenesulphonylamino-1-ethoxycarbonylmethyl-1H-benzimidazol-2-yl)-methyl]-benzamidine-hydrochloride | 0.379 mmol, 200 mg | Cl.C1(=CC=CC=C1)S(=O)(=O)NC1=CC2=C(N(C(=N2)CC2=CC=C(C(=N)N)C=C2)CC(=O)OCC)C=C1
reactant | sodium hydroxide | 2N, 1 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-[(5-benzenesulphonylamino-1-carboxymethyl-1H-benzimidazol-2-yl)-methyl]-benzamidine | C1(=CC=CC=C1)S(=O)(=O)NC1=CC2=C(N(C(=N2)CC2=CC=C(C(=N)N)C=C2)CC(=O)O)C=C1 | C23H21N5O4S
